US05081253
2-[[(Phenyl)methyl]thio]-1H-imidazo[4,5-c]pyridine
To a solution of 1.26 g (0.055 g atom) of sodium in 300 mL of methanol was added 7.56 g (0.05 mol) of 2-mercapto-1H-imidazo[4,5-c]pyridine with stirring. After 20 minutes, the reaction mixture was evaporated to dryness in a rotary evaporator. Dimethyl formamide (200 mL) was added to the residue. To the resulting solution was added dropwise 6.33 g (0.05 mol) of benzylchloride. The reaction mixture was stirred for 5 hours at room temperature and was then poured into 1500 mL of water. The product was removed by filtration and amounted to 9.5 g, m.p. 175°-177° C. The product was triturated with hot ethyl acetate and refiltered. The product amounted to 8.11 g, m.p. 175°-177° C. A portion recrystallized from ethyl acetate gave the analytical sample (m.p. 175°-177° C.).

reactant | sodium | 1.26 g | [Na] | Na
reactant | 2-mercapto-1H-imidazo[4,5-c]pyridine | 0.05 mol, 7.56 g | SC=1NC2=C(C=NC=C2)N1 | C6H5N3S
reactant | benzylchloride | 0.05 mol, 6.33 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | water | 1500 mL | O | H2O
solvent | methanol | 300 mL | CO | CH4O
product | 2-[[(Phenyl)methyl]thio]-1H-imidazo[4,5-c]pyridine | C1(=CC=CC=C1)CSC=1NC2=C(C=NC=C2)N1 | C13H11N3S
